Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left leg redness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old man with HTN, HL, depression and 
anxiety, who presented with LLE pain and erythema that 
progressed despite oral antibiotics prescribed as an outpatient. 
His symptoms began 3 days ago, and 2 days ago he was seen by Dr. 
___ in primary care clinic. His symptoms started with pain 
in his left calf and thigh. He denied any trauma and sought 
evaluation due to concern for clot based on his online research. 
A duplex was negative for DVT, and he was prescribed 
Bactrim/Keflex for possible cellulitis. However despite 3 doses 
of his PO abx he noted worsening of his erythema and so came to 
the ED. He notes that the pain was worse with ambulation, and 
was severe to the point of limiting ambulation. He denies fevers 
or other constitutional symptoms, and he denied any other 
rashes. The pain has remained localized to the area of redness 
on the back of his left leg. He notes that his PO intake has 
remained relatively normal. 

In the ED the patient was afebrile with normal vitals. Labs were 
notable for mild leukocytosis (10.7) which improved by the 
second set of labs. Cre 1.4 initially and increased to 1.5 on 
recheck. He had another duplex which showed no DVT but showed 
skin thickening of the medial calf. While in the ED he initially 
received Bactrim and ceftriaxone initially, as well tylenol, 
ibuprofen, NS, and his home simvastatin, synthroid, fluoxetine, 
but was changed to vancomycin today due to worsening of his 
exam. However when interviewed upon arrival to the floor, he 
states that his pain and erythema have in fact been improving 
since last night, before he had received any vancomycin. 

ROS: As per HPI, and 10 point ROS completed and otherwise 
negative.
 
Past Medical History:
Hypothyroidism
Hypertension
Anxiety
Depression
 
Social History:
___
Family History:
mother - ___
 
Physical Exam:
ADMISSION EXAM:
Vital signs:  98.5 PO 169 / 85 71 18 99 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.    
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: demarcated erythema and induration with mild tenderness
affecting distal L thigh and proximal L calf posteriorly,
receding from marked margins; small fissure of L heel callus but
no other skin breaks identified
EXTR: wwp, no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: 98.1 PO153 / 80 L Lying___
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, no murmur
RESP: CTAB
GI: Abdomen soft, non-distended, non-tender to palpation.    
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: demarcated erythema and induration with mild tenderness
affecting distal L thigh and proximal L calf posteriorly, 
receding from marked margins
EXTR: wwp, no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, a bit anxious, appropriate affect
 
Pertinent Results:
ADMISSION:
=======
___ 04:22PM BLOOD WBC-10.7* RBC-3.93* Hgb-11.2* Hct-34.5* 
MCV-88 MCH-28.5 MCHC-32.5 RDW-12.7 RDWSD-40.7 Plt ___
___ 04:22PM BLOOD Neuts-79.4* Lymphs-9.2* Monos-10.0 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-8.51* AbsLymp-0.99* 
AbsMono-1.07* AbsEos-0.08 AbsBaso-0.02
___ 04:22PM BLOOD ___ PTT-29.3 ___
___ 04:22PM BLOOD Glucose-129* UreaN-20 Creat-1.4* Na-138 
K-3.7 Cl-100 HCO3-23 AnGap-15
___ 04:22PM BLOOD Calcium-9.5 Phos-3.1 Mg-1.9

DISCHARGE:
=======
___ 05:25AM BLOOD WBC-6.5 RBC-3.60* Hgb-10.4* Hct-31.9* 
MCV-89 MCH-28.9 MCHC-32.6 RDW-12.5 RDWSD-40.4 Plt ___
___ 05:25AM BLOOD Glucose-104* UreaN-18 Creat-1.3* Na-140 
K-4.0 Cl-102 HCO3-24 AnGap-14

IMAGING:
======
___ ___ U/S
1. No evidence of deep venous thrombosis in the left lower 
extremity veins.
2. Targeted assessment of the left medial calf, at site of skin 
erythema, is notable for marked skin thickening, which may 
reflect cellulitis.
 
Brief Hospital Course:
___ is a ___ year old man with HTN, HL, depression and 
anxiety, who presented with LLE pain and erythema that 
progressed despite oral antibiotics prescribed as an outpatient, 
improved with IV antibiotics.

#Cellulitis
#Leukocytosis
He developed symptoms on ___ and started antibiotics evening of 
___, but came to the ED on ___ due to worsening pain and 
erythema. Shortly after starting ceftriaxone his symptoms 
started to improve. He was initially started on Bactrim as well, 
which was switched to Vancomycin, but he felt he was already 
improving by that time. Erythema continued to recede and he was 
eager to be discharged, therefore switched back to Cephalexin 
and transitioned Bactrim to Doxycycline for 7 days on ___ given 
initial concern for ___ (below). Provided with extra 3 days of 
Cephalexin if he needs an extended course, to be determined by 
patient and PCP at followup ___ (first full day of treatment) 
-___. Communicated to PCP via email.

#Possible ___
Prior creatinine levels have been in 1.0-1.2 range per outside 
records scanned into OMR. His creatinine was up to 1.5, 
decreased to 1.3 on discharge. He received 3L IVF total, 
reported normal PO intake and good urine output. This seemed 
most likely the non-GFR altering effects of Bactrim (reduced 
renal secretion of creatinine). In case of ___, switched to 
Doxycycline as above, held Lisinopril-HCTZ on discharge until 
PCP ___.
 
#HTN
BP mildly elevated on the floor after receiving no BP meds in 
the ED. Received HCTZ on HD1, but takes combination pill at 
home, held on discharge as above.

#HLD
Held Simvastatin on discharge due to potential severe drug 
interaction with fibrate. Advised to discuss with PCP. OSH 
records show TGs >700 in ___ but most recent <200 in ___. 

#Depression/anxiety
Continued fluoxetine 40.

TRANSITIONAL ISSUES:
===============
[] Determine final treatment course with Cephalexin at followup.
[] Resume antihypertensives per PCP, consider rechecking lytes 
prior.
[] Consider further titration of HLD treatment

>30 spent in discharge coordination and planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fenofibrate 54 mg PO DAILY 
2. FLUoxetine 40 mg PO DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
5. Simvastatin 40 mg PO QPM 
6. Sulfameth/Trimethoprim DS 1 TAB PO BID 
7. Cephalexin 500 mg PO QID 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO BID 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*9 Tablet Refills:*0 
2.  Cephalexin 500 mg PO QID 
RX *cephalexin [Keflex] 500 mg 1 capsule(s) by mouth four times 
per day Disp #*12 Capsule Refills:*0 
3.  Fenofibrate 54 mg PO DAILY  
4.  FLUoxetine 40 mg PO DAILY  
5.  Levothyroxine Sodium 75 mcg PO DAILY  
6. HELD- ___-hydrochlorothiazide ___ mg oral DAILY  
This medication was held. Do not restart 
lisinopril-hydrochlorothiazide until discussing with your 
primary care doctor
7. HELD- Simvastatin 40 mg PO QPM  This medication was held. Do 
not restart Simvastatin until discussing with your primary care 
doctor as there is a drug interaction with your fibrate

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cellulitis of the LLE
elevated creatinine
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You came to the hospital with cellulitis of your leg. You 
improved after getting IV antibiotics. 

You can now resume taking pills for the infection and expect the 
redness to improve over the next few days to a week.

The first full day of antibiotics was ___, so you should 
continue through ___ unless Dr. ___ otherwise.

If it starts getting worse again, please call Dr. ___ 
___. Please discuss with him if you should continue taking 
antibiotics after ___. 

It was a pleasure caring for you and we wish you the best,
Your ___ Team
 
Followup Instructions:
___